US06022829
Then, 3.2 g (9.9 mmol) of 2-[2-fluoro-4-chloro-5-hydroxyphenyl]-4-methyl-5-trifluoromethylpyridazin-3-one was dissolved in about 50 ml of N,N-dimethyl-formamide, to which 0.44 g (11 mmol) of sodium hydride (60 wt % oil dispersion) was added at room temperature. The mixture was left stand at room temperature for 30 minutes and then cooled with ice, to which 1.8 g (11 mmol) of ethyl bromoacetate was added. The mixture was stirred at room temperature for 1 hour, to which diethyl ether and water were added in this order to make an extraction. The organic layer was washed with 10% aqueous hydrochloric acid solution, saturated aqueous sodium hydrogencarbonate solution, and saturated aqueous sodium chloride solution in this order, and then dried over anhydrous magnesium sulfate. The solvent was distilled out under reduced pressure, and the residue was subjected to silica gel column chromato-graphy, which afforded 2.4 g (5.5 mmol) of ethyl 2-chloro-4-fluoro-5-(4-methyl-5-trifluoromethyl-3-pyridazinon-2-yl)phenoxyacetate (compound [1] wherein R is ethyl; hereinafter referred to as compound A), m.p., 102.0° C.

reactant | 2-[2-fluoro-4-chloro-5-hydroxyphenyl]-4-methyl-5-trifluoromethylpyridazin-3-one | 9.9 mmol, 3.2 g | FC1=C(C=C(C(=C1)Cl)O)N1N=CC(=C(C1=O)C)C(F)(F)F | C12H7ClF4N2O2
reactant | sodium hydride | 11 mmol, 0.44 g | [H-].[Na+]
reactant | ethyl bromoacetate | 11 mmol, 1.8 g | BrCC(=O)OCC | C4H7BrO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethyl-formamide | about 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 2-chloro-4-fluoro-5-(4-methyl-5-trifluoromethyl-3-pyridazinon-2-yl)phenoxyacetate | 5.5 mmol, 2.4 g | ClC1=C(OCC(=O)OCC)C=C(C(=C1)F)N1N=CC(=C(C1=O)C)C(F)(F)F | C16H13ClF4N2O4
